US07179926B2
4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenylbutanenitrile:
Methyl 3-cyano-2-phenylpropanoate (350 mg, 1.90 mmol) was treated with LiBH4 (2.28 mmol) in THF (20 ml) at 50° C. for 2 hours until completion of the reaction. It was quenched with water and extracted with ethyl acetate. The organic phase was washed with water, brine and dried with Na2SO4 before being concentrated to dryness. The crude product was then mixed with 3,5-bis(trifluoromethyl)benzyl bromide in DMF (20 ml) and sodium hydride (91 mg, 2.28 mmol) was added. The reaction mixture was stirred at room temperature for 30 minutes and quenched with water, and extracted with ethyl acetate. The organic phase was washed with water, brine and concentrated. The crude residue was purified by silica flash chromatography (15% ethyl acetate in hexanes) to afford the desired product (405 mg, 55% in two steps). 1H NMR (500 MHz, CDCl3) δ ppm 2.78 (dd, J=116.79, 7.32 Hz, 1 H) 2.88 (m, 1 H) 3.33 (m, 1 H) 3.81 (m, 2 H) 4.65 (s, 2 H) 7.27 (m, 2 H) 7.31 (m, 1 H) 7.37 (m, 2 H) 7.73 (s, 2 H) 7.80 (s, 1 H).

reactant | Methyl 3-cyano-2-phenylpropanoate | 1.90 mmol, 350 mg | C(#N)CC(C(=O)OC)C1=CC=CC=C1 | C11H11NO2
reactant | LiBH4 | 2.28 mmol | [Li+].[BH4-]
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | sodium hydride | 2.28 mmol, 91 mg | [H-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenylbutanenitrile | 405 mg, 55% | FC(C=1C=C(COCC(CC#N)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C19H15F6NO
